US04263311
A mixture of 19.5 g. (0.06 mole) of 4,5-bis-(p-methylthiophenyl)-2-mercaptoimidazole, 10.7 g. (0.06 mole) of 1,2-dibromoethane and 7.9 g. (0.06 mole) of potassium carbonate in dimethylformamide (250 ml.) was refluxed for 3 hours. The mixture was then poured into 1 liter of ice-water and the yellow precipitate collected and washed with water. This material was then dissolved in chloroform, dried over magnesium sulfate, filtered and the solvent removed at reduced pressure. The residue was then treated with chloroform-ether and the white crystals of 5,6-bis(p-methylthiophenyl)-2,3-dihydroimidazo[2,1-b]thiazole collected. This was then dissolved in methanol and treated with aqueous hydrobromic acid. Filtering and recrystallizing from methanol gave 5,6-bis(p-methylthiophenyl)-2,3-dihydroimidazo[2,1-b]thiazole hydrobromide, m.p. 270° C.

reactant | 4,5-bis-(p-methylthiophenyl)-2-mercaptoimidazole | 0.06 mole | CSC1=CC=C(C=C1)C=1N=C(NC1C1=CC=C(C=C1)SC)S | C17H16N2S3
reactant | 1,2-dibromoethane | 0.06 mole | BrCCBr | C2H4Br2
reactant | potassium carbonate | 0.06 mole | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
product | 5,6-bis(p-methylthiophenyl)-2,3-dihydroimidazo[2,1-b]thiazole hydrobromide | Br.CSC1=CC=C(C=C1)C1=C(N=C2SCCN21)C2=CC=C(C=C2)SC | InChI=1S/C19H18N2S3.BrH/c1-22-15-7-3-13(4-8-15)17-18(21-11-12-24-19(21)20-17)14-5-9-16(23-2)10-6-14;/h3-10H,11-12H2,1-2H3;1H
